US07868036B2
j) 2-[8-(2-Methoxyethoxy)naphthalen-2-ylmethyl]-3-methylbutyric acid
122 ml of hydrogen peroxide (30%) are added dropwise and then 0.17 g of lithium hydroxide monohydrate is added to the solution of 0.95 g of 4(R)-benzyl-3-{2-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-3-methylbutyryl}oxazolidin-2-one in 12 ml of tetrahydrofuran and 4 ml of water at 0° C. After 6 hours at room temperature, the reaction mixture is cooled to 0° C. and admixed with a solution of 1.54 g of sodium sulphite in 9 ml of water (negative peroxide test). The reaction mixture is adjusted to pH 9.8 with saturated aqueous sodium hydrogen-carbonate solution and clarified by filtration, and the tetrahydrofuran is concentrated by evaporation. The residue is washed with dichloromethane (3×)—the combined organic phases are washed with phosphate buffer/25% conc. ammonia solution (pH 9.8). The combined aqueous phases are adjusted to pH 3.0 with 4N HCl and extracted with dichloromethane (2×). The combined organic phases are dried over sodium sulphate and concentrated by evaporation. The crude title compound is identified on the basis of the Rf value from the residue.

reactant | hydrogen peroxide | 122 ml | OO | H2O2
reactant | lithium hydroxide monohydrate | 0.17 g | O.[OH-].[Li+]
reactant | 4(R)-benzyl-3-{2-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-3-methylbutyryl}oxazolidin-2-one | 0.95 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(C(C(C)C)CC1=CC2=C(C=CC=C2C=C1)OCCOC)=O | C29H33NO5
reactant | sodium sulphite | 1.54 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydrogen-carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
solvent | water | 4 ml | O | H2O
solvent | water | 9 ml | O | H2O
product | 2-[8-(2-Methoxyethoxy)naphthalen-2-ylmethyl]-3-methylbutyric acid | COCCOC=1C=CC=C2C=CC(=CC12)CC(C(=O)O)C(C)C | C19H24O4
